US05204476
A solution of 0.1 mol of 5-heptyloxy-2-(4-(2-hydroxy-5-oxaoctyloxy)-2-fluorophenyl)pyridine (prepared by heating optically active 1,2-epoxy-5-oxaoctane, obtainable from malic acid, with 5-heptyloxy-2-(4-hydroxy-2-fluorophenyl)pyridine in the presence of dry potassium carbonate and methyl ethyl ketone as solvent) in methylene chloride is cooled to -40° C. and 0.11 mol of DAST is added to it dropwise with moisture being excluded. The reaction mixture is then stirred for 12 hours while heating slowly to room temperature. Then hydrolysis is carried out with ice cooling and the reaction mixture is washed with dilute sodium hydroxide solution and several times with water. After drying over magnesium sulfate, the solvent is removed on a rotary evaporator and the crude product is purified chromatographically and - by crystallization. Optically active 5-heptyloxy-2-(4-(2-fluoro-5-oxaoctyloxy)-2-fluorophenyl)pyridine is obtained.

reactant | 5-heptyloxy-2-(4-(2-hydroxy-5-oxaoctyloxy)-2-fluorophenyl)pyridine | 0.1 mol | C(CCCCCC)OC=1C=CC(=NC1)C1=C(C=C(C=C1)OCC(CCOCCC)O)F | C25H36FNO4
reactant | 1,2-epoxy-5-oxaoctane | O1CC1CCOCCC | C7H14O2
reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 5-heptyloxy-2-(4-hydroxy-2-fluorophenyl)pyridine | C(CCCCCC)OC=1C=CC(=NC1)C1=C(C=C(C=C1)O)F | C18H22FNO2
reactant | DAST | 0.11 mol | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | C(C)C(=O)C | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-heptyloxy-2-(4-(2-fluoro-5-oxaoctyloxy)-2-fluorophenyl)pyridine | C(CCCCCC)OC=1C=CC(=NC1)C1=C(C=C(C=C1)OCC(CCOCCC)F)F | C25H35F2NO3
